Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR 
 
Major Surgical or Invasive Procedure:
___ Colonoscopy: Three clips applied around front end of 
prior polypectomy site seen in the ascending colon. One clip 
applied to polypectomy site was seen in the descending colon.

 
History of Present Illness:
Ms. ___ is a ___ with history of HTN and colonic adenomata 
s/p colonoscopy with polypectomy ___ by Dr. ___ who 
presented to the ED from home with recurrent BRBPR.  
Patient underwent colonoscopy with polyp removal last ___ 
___ and then experienced 1 episode of BRBPR on ___. 
For this she presented to the ED but was stable with no repeat 
bleeding and stable H/H and appropriately sent home.  
Ms. ___ reports light meals for ___ days after this first 
bleeding episode and then started eating normally again over the 
weekend. Was appropriately holding ASA per Dr. ___ 
until ___.  
At 4:30 pm on ___, she had frank blood per rectum 
after feeling a "gurgling" sensation in her stomach. Of note, 
she'd had 3 normal BMs earlier in the day prior to the blood. 
Then had a second episode of BRBPR 15 min later. Finally, a 
third episode of BRBPR an hour later and then presented to ___ 
ED. Denied lightheadedness/dizziness, abdominal pain, chest 
pain. However, notes that she doesn't feel like herself.  
Patient called ___ office and spoke to Dr. ___ (fellow on 
call), who recommended repeat colonoscopy after inpatient prep 
and monitoring.  

In the ED, initial vitals were: T 97.0, HR 87, BP 155/70, RR 18, 
O2 100% RA  
 - Exam notable for: Soft, nontender, nondistended abdomen  
 - Labs notable for: WBC=8.5, H/H=12.3/37.7, Plt=249, INR=1.0; 
Chem panel wnl except for BUN=24 with Cr=0.8.  
 - Imaging was notable for: none performed  
 - Patient was given: 1L NS  IVF

Upon arrival to the floor, patient reported no further episodes 
of BRBPR, lightheadedness or abdominal pain. Did feel "gurgling" 
in abdomen again.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI  
 
Past Medical History:
 - Hypertension  
 - Colon polyps, adenomata  
 - Insomnia  
 - GERD  
 
Social History:
___
Family History:
Colon cancer (mother)  
Denies FHx of CAD  
Grandfather with CVA  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=====================
VS: 97.6 132/71 67 18 96 RA 
General: Alert, oriented, no acute distress WNWD female well 
appearing, smilling and interactive 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, no 
conjunctival palor
Neck: JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, obese. Non-tender. Hyperactive bowel sounds. No 
organomegaly. No rebound or guarding.  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities.  

DISCHARGE PHYSICAL EXAM:
=====================
VS: 97.9 125 / 74 76 18 97 RA 
General: Alert, oriented, no acute distress WNWD female well 
appearing
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, no 
conjunctival palor
Neck: JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, obese. Non-tender. Normoactive bowel sounds. No 
organomegaly. No rebound or guarding.  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities.  
Ambulating. 
 
Pertinent Results:
ADMISSION LABS:
=============
___ 08:12PM BLOOD WBC-8.5 RBC-4.03 Hgb-12.3 Hct-37.7 MCV-94 
MCH-30.5 MCHC-32.6 RDW-13.4 RDWSD-45.9 Plt ___
___ 08:12PM BLOOD Neuts-59.5 ___ Monos-9.4 Eos-2.0 
Baso-0.4 Im ___ AbsNeut-5.09 AbsLymp-2.43 AbsMono-0.80 
AbsEos-0.17 AbsBaso-0.03
___ 08:12PM BLOOD ___ PTT-32.2 ___
___ 08:12PM BLOOD Glucose-105* UreaN-24* Creat-0.8 Na-137 
K-4.6 Cl-101 HCO3-26 AnGap-15

DISCHARGE LABS:
=============
___ 10:00AM BLOOD WBC-10.2*# RBC-3.53* Hgb-10.8* Hct-33.2* 
MCV-94 MCH-30.6 MCHC-32.5 RDW-13.5 RDWSD-46.4* Plt ___

STUDIES/REPORTS:
==============
___ COLONSCOPY REPORT
Findings:
=Prior polypectomy site seen in the ascending colon with slight 
erythema at the periphery. Three clips were applied in a zipper 
fashion around the front edge of the polyp with adequate 
closure. A second polypectomy site was seen in the descending 
colon with some blood at the edges. A single clip was placed for 
hemosistasis successfully. At the IC valve there were two subtle 
1cm sessile polyp appearing lesions noted on NBI. Given the 
recent bleed just biopsies were obtained from them and tattoo 
ink was applied.  Cold forceps biopsies were performed for 
histology at the IC valve mucosa. 2 cc.SPOT injection was 
applied for hemostasis with success in the IC valve. Four 
endoclips were successfully applied to the polypectomy sites for 
the purpose of hemostasis. 
Impression:Prior polypectomy site seen in the ascending colon 
with slight erythema at the periphery. Three clips were applied 
in a zipper fashion around the front edge of the polyp with 
adequate closure. A second polypectomy site was seen in the 
descending colon with some blood at the edges. A single clip was 
placed for hemosistasis successfully. At the IC valve there were 
two subtle 1cm sessile polyp appearing lesions noted on NBI. 
Given the recent bleed just biopsies were obtained from them and 
tattoo ink was applied. (biopsy, injection, endoclip)
Otherwise normal colonoscopy to cecum

___ COLONSCOPY REPORT
Findings:
Protruding LesionsA single sessile 15 mm polyp of benign 
appearance was found in the ascending colon. A piece-meal 
polypectomy was performed using a hot snare in the ascending 
colon. The polyp was completely removed. Three sessile polyps of 
benign appearance and ranging in size from 2 mm to 3 mm were 
found in the sigmoid colon. Single-piece polypectomies were 
performed using a cold forceps in the sigmoid colon. The polyps 
were completely removed. Small grade 1 internal hemorrhoids were 
noted. 
Excavated LesionsMultiple diverticula were seen in the sigmoid 
colon. 
Impression:Grade 1 internal hemorrhoids
Diverticulosis of the sigmoid colon
Polyp in the ascending colon (polypectomy)
Polyps in the sigmoid colon (polypectomy)

PATHOLOGY:
=========
___ 
Ileal cecal valve mucosal biopsy:Sessile serrated adenoma, 
fragments.

___
Colonic polyps, polypectomies:
1. Ascending:
- Fragments of sessile serrated adenoma.
2. Sigmoid:
- Fragments of hyperplastic polyps and unremarkable colonic 
mucosa.
 
Brief Hospital Course:
Ms. ___ is a ___ with PMHx notable for HTN, internal 
hemorrhoids, diverticulosis, colonic polyps s/p colonoscopy with 
polypectomy ___ by Dr. ___ presented to ED with 3 
episodes of painless bright red blood per rectum on ___. A 
colonoscopy was performed on ___ and 4 clips were placed in 
total to two prior polypectomy sites with adequate achievement 
of hemostasis. Specifically, three clips were applied around 
front end of prior polypectomy site seen in the ascending colon 
and one clip was applied to a polypectomy site in the descending 
colon. Of note, at the IC valve there were two subtle 1cm 
sessile polyp appearing lesions which were biopsied and 
tattooed. Patient with brown stool prior to discharge with 
stable H/H. Did not receive transfusion of blood this admission. 
Gastroenterology will follow up on the biopsies and contact Ms. 
___. 

# Mild Leukocytosis:
WBC was mildly elevated to 10.2 at time of discharge in the 
absence of infectious symptoms. She will have repeat CBC on ___ 
with result to be faxed to her PCP ___.

CHRONIC ISSUES: 
# HTN: Continued home Lisinopril. 
# Enteroccoccus UTI: Of note, the patient was diagnosed with 
Enterococcus UTI in ED during visit of ___ and prescribed 
nitrofurantoin when culture finalized on ___. Continued this 
antibiotic inpatient and patient is to complete outpatient 7 day 
total course. 
# GERD: Continued home Omeprazole. 

TRANSITIONAL ISSUES:
===================
- Ms. ___ be contacted by gastroenterology regarding 
biopsy results.
- WBC was mildly elevated to 10.2 at time of discharge in the 
absence of infectious symptoms. Patient to have repeat CBC on 
___ with result to be faxed to her PCP ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. LORazepam 0.5 mg PO QHS 
3. Omeprazole 20 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Lisinopril 10 mg PO DAILY 
6. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Lisinopril 10 mg PO DAILY  
4.  LORazepam 0.5 mg PO QHS  
5.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H  
6.  Omeprazole 20 mg PO DAILY  
7.Outpatient Lab Work
Please check on ___: CBC with differential. 
(ICD___: ___)
Fax results to Dr. ___: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Post Polypectomy Lower GI Bleed

Secondary Diagnosis:
HTN
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You had bleeding in your stool

WHAT WAS DONE FOR YOU WHILE YOU WERE HERE?
- You had a colonoscopy and a few clips were placed around your 
prior polypectomy sites to stop bleeding
- Your blood counts remained stable. 

WHAT SHOULD YOU DO NOW?
- Please follow up with your primary care doctor as scheduled 
for you.  If you cannot make this appointment, please call the 
office to reschedule.
- The gastroenterology department (the team that did the 
colonoscopy) will contact you with the results of the biopsies 
they did.
- Please call your doctor if you develop stool that is black in 
color or if you develop bright red blood in your stool again.
- Please finish your course of antibiotics that you were given 
for your urinary infection prior to this hospitalization.

It was a pleasure taking care of you,

Your ___ Care Team
 
Followup Instructions:
___